US07402595B2
3-acetyl-2-(4-aminomethylbenzyl)-6-bromo-4-phenyl-2H-isoquinolin-1-one hydrochloride
To [4-(3-acetyl-6-bromo-1-oxo-4-phenyl-1H-isoquinolin-2-ylmethyl)benzyl]carbamic acid tert-butyl ester (561 mg) was added 4N hydrochloric acid ethyl acetate solution (5 ml) and the mixture was stirred at room temperature for 30 min. The solvent was evaporated under reduced pressure and toluene was added. The solvent was evaporated again under reduced pressure. To the obtained residue was added diisopropyl ether and the mixture was crystallized to give the title compound (410 mg, 82%).

reactant | [4-(3-acetyl-6-bromo-1-oxo-4-phenyl-1H-isoquinolin-2-ylmethyl)benzyl]carbamic acid tert-butyl ester | 561 mg | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CN1C(C2=CC=C(C=C2C(=C1C(C)=O)C1=CC=CC=C1)Br)=O)=O | C30H29BrN2O4
reactant | hydrochloric acid ethyl acetate | 4N, 5 ml | C(C)OC(C)=O.Cl
product | 3-acetyl-2-(4-aminomethylbenzyl)-6-bromo-4-phenyl-2H-isoquinolin-1-one hydrochloride | 410 mg, 82% | Cl.C(C)(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)CN | InChI=1S/C25H21BrN2O2.ClH/c1-16(29)24-23(19-5-3-2-4-6-19)22-13-20(26)11-12-21(22)25(30)28(24)15-18-9-7-17(14-27)8-10-18;/h2-13H,14-15,27H2,1H3;1H
